Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3].[O:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-1.0648584156
[C:2]#[C:3][C:4][O:5][H:6].[O:1]>>[O:1]=[C:2]=[C:3][C:4][O:5][H:6],-7.3851729507
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[H:6],1.59102526817
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[C:5]([O:6][O:7])=[C:8]([H:9])[H:10],-0.8234999496400001
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])[H:18],-1.73778463092
[C:7]([H:8])([H:9])[O:10][C:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-3.5595761508
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10](=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6],1.91861438103
[H:1][C:2]([H:3])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.4218174480900005
[H:1][C:2]#[C:3][C:4][C:6]([H:7])([H:8])[O:9][O:10][H:11].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][O:10][H:11],-4.76721831526
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],5.578891925290001
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9],2.40035573013
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-5.6805855782000005
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-1.86681711611
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-7.07739637798
[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-3.54844824177
[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.285231890871
[H:1][O:2][C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],1.44339647717
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11].[O:1],2.85573684572
[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12]>>[H:1][C:2]#[C:3][C:8]([H:9])[C:10]([C:4]([H:5])=[C:6][H:7])([H:11])[H:12],2.46931153221
[C:1]#[C:2][O:3][C:4][H:5].[C:6](=[O:7])([H:8])[H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([O:7])([H:8])[H:9],-1.39321877011
[O:1]=[C:2][O:3]/[C:4]([H:5])=[C:6]\[C:7]([H:8])([H:9])[H:10]>>[H:5].[O:1]=[C:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[H:10],2.51774152416
[C:2]([H:3])#[C:4][C:5]([H:6])[H:7].[O:1]>>[O:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7],-4.67081630141
[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2][O:3][C:4]([H:5])([H:6])[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.58380692026
[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-5.17716307809
[H:14].[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.50284863076
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[H:12],3.82079561167
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:10][C:11]([H:12])([H:13])[H:14].[H:9],1.76596697403
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],1.98188448791
[H:14].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.6020845142
